US07361660B2
a) 4,5-Dichloro-1H-imidazole-2-methanol
Potassium hydroxide (0.12 g, 2.14 mmol) in water (4 ml) was added to 4,5-dichloroimidazole, and the suspension was stirred for 35 min. Paraformaldehyde (0.11 g, 3.66 mmol) was added portionwise and the reaction mixture was stirred over night, then acidified with dilute HCl to pH 1 and then concentrated in vacuo to give a white solid, 0.6 g (98%).

reactant | Potassium hydroxide | 2.14 mmol, 0.12 g | [OH-].[K+]
reactant | 4,5-dichloroimidazole | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Paraformaldehyde | 3.66 mmol, 0.11 g | C=O | CH2O
reactant | HCl | Cl | ClH
solvent | water | 4 ml | O | H2O
product | 4,5-Dichloro-1H-imidazole-2-methanol | ClC=1N=C(NC1Cl)CO | C4H4Cl2N2O
